US05716954
Preparation of 6-ethyl-8-(3-chloropheny1)pyrido[2,3-d]pyridazin-5-one
To a suspension of 8-(3-chlorophenyl)pyrido[2,3-d]pyridazin-5-one (0.32 g, 1.24 mmoles) in tetrahydrofuran (50 ml) was added sodium hydride (0.06 g, 1.4 mmoles). The mixture was stirred for 1 hour at room temperature. Iodoethane (0.48 g, 3.1 mmoles) was added and the solution was refluxed for 18 hours under an inert atmosphere. The mixture was cooled and acidified by the addition of 50 ml of 1N HCl. The desired compound was isolated by extraction with ethyl acetate (extracted until no product detected in aqueous layer), washed with sodium bicarbonate, brine and dried over magnesium sulfate. The solution was filtered and the solvent removed yielding 0.85 g of the crude desired product. The product was purified by recrystallization from methanol to yield 0.24 g of 6-ethyl-8-(3-chlorophenyl)pyrido-[2,3-d]pyridazin-5-one (67.8%), mp. 117°-118° C.

reactant | 8-(3-chlorophenyl)pyrido[2,3-d]pyridazin-5-one | 1.24 mmoles, 0.32 g | ClC=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8ClN3O
reactant | sodium hydride | 1.4 mmoles, 0.06 g | [H-].[Na+]
reactant | Iodoethane | 3.1 mmoles, 0.48 g | ICC | C2H5I
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-ethyl-8-(3-chloropheny1)pyrido[2,3-d]pyridazin-5-one | C(C)N1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)Cl | C15H12ClN3O
